US08222424B2
2-Chloro-5-(4-methoxy-benzoyl)-benzenesulfonyl chloride
The title compound is prepared as described above for 2-fluoro-5-(4-methoxy-benzoyl)-benzenesulfonyl chloride, starting with 4-chloro-benzoic acid.

reactant | 2-fluoro-5-(4-methoxy-benzoyl)-benzenesulfonyl chloride | FC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)Cl | C14H10ClFO4S
reactant | 4-chloro-benzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
product | 2-Chloro-5-(4-methoxy-benzoyl)-benzenesulfonyl chloride | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)Cl | C14H10Cl2O4S
